US08383093B1
Synthesis of rotigotine-2-Azidopropionate
In a 100 mL round bottom flask was placed 2-azidopropionic acid (251 mg, 2.02 mmol, 1.3 equiv.—in 3 mL of DCM), rotigotine (500 mg, 1.55 mmol, 1 equiv.), and 4-DMAP (249 mg, 2.02 mmol, 1.3 equiv.—in 6 mL of DCM) and the mixture was allowed to stir under argon. The solution was cooled by placing the flask in an ice-water bath for 5 min. To the solution, DCC was added (421 mg, 2.02 mmol, 1.3 equiv.). The progress of the reaction was followed by reversed phase HPLC. Following overnight stirring at room temperature, additional 2-azidopropionic acid (126 mg, 0.65 equiv.) in 2 mL of DCM and 4-DMAP (124 mg, 0.65 equiv.) were added to the reaction mixture, followed by DCC (211 mg, 0.65 equiv.). The solution was allowed to stir at room temperature for another 3.5 hours. HPLC result shows 94% of conversion to ester. The reaction mixture was filtered, and the filtrate was concentrated to dryness on a rotary-evaporator. The crude product was then purified by silica gel chromatography. The crude product was dissolved in hexane-ethyl acetate (6 mL, 4:1 v/v), and then loaded on to a 300 mL Silica Gel Column (30 mm id). The column was eluted with a hexane-ethyl acetate (4:1 v/v). The fractions (10 mL each) were analyzed by TLC and reversed phase HPLC. The product fractions were pooled, evaporated by rotary-evaporation, and then dried in vacuum overnight. Yield: 307 mg.

reactant | 2-azidopropionic acid | 2.02 mmol, 3 mL, 251 mg, 1.3 equiv. | N(=[N+]=[N-])C(C(=O)O)C | C3H5N3O2
reactant | rotigotine | 1.55 mmol, 500 mg, 1 equiv. | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | C19H25NOS
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-azidopropionic acid | 126 mg, 0.65 equiv. | N(=[N+]=[N-])C(C(=O)O)C | C3H5N3O2
reactant | DCC | 211 mg, 0.65 equiv. | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-DMAP | 2.02 mmol, 6 mL, 249 mg, 1.3 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-DMAP | 124 mg, 0.65 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
product | rotigotine 2-Azidopropionate | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2.N(=[N+]=[N-])C(C(=O)[O-])C | InChI=1S/C19H25NOS.C3H5N3O2/c1-2-11-20(12-10-17-6-4-13-22-17)16-8-9-18-15(14-16)5-3-7-19(18)21;1-2(3(7)8)5-6-4/h3-7,13,16,21H,2,8-12,14H2,1H3;2H,1H3,(H,7,8)/p-1/t16-;/m0./s1
